US05773476
4 g of 8-methyl 4-quinazolinone, 5 ml POCl3 and 5 ml dimethyl aniline in 40 ml toluene were refluxed 3.5 hours. Workup and trituration with hexane gave 2.6 g of 8-methyl 4 chloro quinazoline, mp-122° C. NMR CDCl3 δ 9.07(1H,S), 8.12(1H,d,J=7.7 Hz), 7.8(1H,d,J=6.0 Hz), 7.60(1H,t), 2.78(3H,S).

reactant | 8-methyl 4-quinazolinone | 4 g | CC=1C=CC=C2C(NC=NC12)=O | C9H8N2O
reactant | POCl3 | 5 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | dimethyl aniline | 5 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | hexane | CCCCCC | C6H14
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 8-methyl 4 chloro quinazoline | 2.6 g | CC=1C=CC=C2C(=NC=NC12)Cl | C9H7ClN2
